US08809342B2
A 1.0 L round bottom flask was charged with methyl 6-fluoronicotinate (14.2 g, 91.6 mmol), (R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine hydrochloride (30.0 g, 87.3 mmol), potassium carbonate (36.2 g, 262 mmol) and N,N-dimethylformamide (300 mL). The reaction was heated to 110° C. and stirred for 15 hours. The reaction was cooled to room temperature and filtered. The filtrate was diluted with ethyl acetate and saturated ammonium chloride. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organic layers were washed with water (5×) and brine (1×), dried over sodium sulfate, filtered and concentrated to provide (R)-methyl-6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate (41.5 g) as a light brown solid. 1H NMR (400 MHz, CDCl3, δ): 0.98 (d, J=6.24 Hz, 3 H) 1.02 (d, J=6.24 Hz, 3 H) 1.67-1.92 (m, 3 H) 3.86 (s, 3 H) 4.68-4.84 (m, 1 H) 6.36 (d, J=8.97 Hz, 1 H) 6.65 (br. s., 1 H) 7.42-7.47 (m, 2 H) 7.55-7.59 (m, 2 H) 7.66-7.69 (m, 4 H) 8.00 (dd, J=8.97, 2.15 Hz, 1 H) 8.66 (d, J=1.95 Hz, 1 H). MS (M+1): 443.4.

reactant | methyl 6-fluoronicotinate | 91.6 mmol, 14.2 g | FC1=NC=C(C(=O)OC)C=C1 | C7H6FNO2
reactant | (R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine hydrochloride | 87.3 mmol, 30.0 g | Cl.CC(C[C@@H](N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C
reactant | potassium carbonate | 262 mmol, 36.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | (R)-methyl-6-(3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butylamino)nicotinate | 41.5 g | COC(C1=CN=C(C=C1)N[C@H](CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C25H25F3N2O2
